US05356886
A solution of diisopropyl (E)-3-acetoxymethyl-4-t-butyldiphenylsilyloxybut-1-enylphosphonate (5 g, 9.2 mmol) in methanol (50 ml) was stirred with potassium carbonate (63 g, 0.45 mmol) for 5 h at room temperature. The solvent was removed in vacuo and the residue was chromatographed on silica gel eluting with chloroform-methanol (100:1) of increasing polarity to (30:1) to give diisopropyl (E)-3-t-butyldiphenylsilyloxymethyl-4-hydroxybut-1-enylphosphonate as an oil (3.4 g, 73%): υmax (film) 3381, 3071, 3025, 2940, 2931, 2858, 2360, 2332, 1631, 1585, 1471 and 1428 cm-1 ; δH (CDCl3) 1.05 [9H, s, C(CH3)3 ], 1.25 (3H, d, J 6 Hz, CHCH3), 1.27 (3H, d, J 6.1 Hz, CHCH3), 1.31 [6H, d, J 6 Hz, CH(CH3)2 ], 2.15 (1H, t, J 5.9 Hz, D2O exchangeable OH), 2.65 (1H, m, CH), 3.80 (4H, m, 2×CH2), 4.65 [2H, m, 2×CH(CH3)2 ], 5.76 (1H, ddd, J 1, 17 and 19 Hz, PCH=CH), 6.64 (1H, ddd, J 8, 17 and 23 Hz, PCH=CH), 7.4-7.7 (10H, m, 2×C6H5) (Found: C, 63.65; H, 8.16%. M+ 504.2444. C27H41O5PSi.0.25 H2O requires C, 63.69; H, 8.22%. M+ 504.2461).

reactant | diisopropyl (E)-3-acetoxymethyl-4-t-butyldiphenylsilyloxybut-1-enylphosphonate | 9.2 mmol, 5 g | C(C)(=O)OCC(/C=C/P(OC(C)C)(OC(C)C)=O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C29H43O6PSi
reactant | potassium carbonate | 0.45 mmol, 63 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | diisopropyl (E)-3-t-butyldiphenylsilyloxymethyl-4-hydroxybut-1-enylphosphonate | 3.4 g, 73% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(/C=C/P(OC(C)C)(OC(C)C)=O)CO | C27H41O5PSi
